US07842703B2
Step 2: 8-chloro-5-nitroisoquinoline
To a solution of 8-chloroisoquinoline (1 mmol) in concentrated sulfuric acid at 0° C. was added potassium nitrate (1.1 mmol). The reaction mixture was warmed to room temperature and stirred at room temperature for 5 hours. The reaction mixture was basified Solid precipitated was column purified to afford a pale yellow solid.

reactant | 8-chloroisoquinoline | 1 mmol | ClC=1C=CC=C2C=CN=CC12 | C9H6ClN
reactant | potassium nitrate | 1.1 mmol | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 8-chloro-5-nitroisoquinoline | ClC=1C=CC(=C2C=CN=CC12)[N+](=O)[O-] | C9H5ClN2O2
